US04062861
To a solution of 3-amino-5-t-butylisoxazole in benzene, benzoyl chloride and pyridine are added, whereby the reaction is carried out. Thus 3-benzoylamino-5-t-butylisoxazole is obtained as crystals melting at 192° to 193° C.

reactant | 3-amino-5-t-butylisoxazole | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-benzoylamino-5-t-butylisoxazole | C(C1=CC=CC=C1)(=O)NC1=NOC(=C1)C(C)(C)C | C14H16N2O2
